US04877787
Synthesis of 2-tert.-butyl-4-bromo-5-mercapto-3(2H)-pyridazinone
To 200 ml of water were added 31.0 g of 2-tert.-butyl-4,5-dibromo-3(2H)-pyridazinone and 15.8 g of 70% sodium hydrosulfide. After stirring at 60° C. for 4 hours, the resulting mixture was allowed to cool to room temperature and incorporated with about 8 ml of concentrated hydrochloric acid to lower the pH of the liquid to not higher than 2. The resulting solid was filtered off, washed with water, dried and then recrystallized from benzene/n-hexane to give 8.0 g of the intended product as white crystals of m.p. 107°-110° C. (yield: 30.4%).

reactant | 2-tert.-butyl-4,5-dibromo-3(2H)-pyridazinone | 31.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Br)Br | C8H10Br2N2O
reactant | sodium hydrosulfide | 15.8 g | [SH-].[Na+]
reactant | hydrochloric acid | about 8 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 2-tert.-butyl-4-bromo-5-mercapto-3(2H)-pyridazinone | 8.0 g, yield: 30.4% | C(C)(C)(C)N1N=CC(=C(C1=O)Br)S | C8H11BrN2OS
